US03946112
To 700 ml of chloroform is added 10.0 g (0.033 mole) of fluoranthene-3,8-dicarbonyl chloride and 12.4 g (0.066 mole) of 3-dibutylaminopropanol and the resulting solution is refluxed overnight. Upon cooling a solid forms which is crystallized from chloroform-ethyl acetate and twice from methanol-ethyl acetate. Further purification is achieved by dissolving the solid in water with subsequent conversion of the solid to the free base by the action of cold 3 N. aqueous potassium hydroxide, extraction of the free base with ether and after drying the ether solution converting the basic ester to the dihydrochloride salt with ethereal-hydrogen chloride. The product is crystallized from methanol-butanone-ether to give bis(3-dibutylaminopropyl)fluoranthene-3,8-dicarboxylate dihydrochloride hemidrate. M.P. 169°-173°C.

reactant | fluoranthene-3,8-dicarbonyl chloride | 0.033 mole, 10.0 g | C1=CC(=C2C=CC=C3C4=CC(=CC=C4C1=C23)C(=O)Cl)C(=O)Cl | C18H8Cl2O2
reactant | 3-dibutylaminopropanol | 0.066 mole, 12.4 g | C(CCC)N(CCCO)CCCC | C11H25NO
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
product | bis(3-dibutylaminopropyl)fluoranthene-3,8-dicarboxylate dihydrochloride | Cl.Cl.C(CCC)N(CCCOC(=O)C=1C=CC=2C3=CC=C(C=C3C3=CC=CC1C23)C(=O)OCCCN(CCCC)CCCC)CCCC | InChI=1S/C40H56N2O4.2ClH/c1-5-9-22-41(23-10-6-2)26-14-28-45-39(43)31-18-19-32-35-20-21-36(33-16-13-17-34(38(33)35)37(32)30-31)40(44)46-29-15-27-42(24-11-7-3)25-12-8-4;;/h13,16-21,30H,5-12,14-15,22-29H2,1-4H3;2*1H
